US06143764
N-(2,4-Dichlorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [229]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (53 mg) was dissolved in toluene (5 ml) with heat, 2,4-dichlorophenyl isocyanate (115 mg) was added, and the admixture was refluxed with heat for 20 minutes. The separated crystals were filtered and then washed with toluene to obtain 74 mg of the title compound (yield: 85%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 53 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 2,4-dichlorophenyl isocyanate | 115 mg | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-Dichlorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 74 mg, yield: 85% | ClC1=C(C=CC(=C1)Cl)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H19Cl2N3O4
